US09234000B2
C. (R)-2-Amino-3-(4-ethoxy-phenyl)-propionic acid
(R)-2-Butoxycarbonylamino-3-(4-ethoxy-phenyl)-propionic acid (4.0 g, 12.93 mmol) was dissolved in 4M HCl in dioxan (150 mL). After one hour at room temperature the solvent was removed in vacuo to give a white solid identified as (R)-2-amino-3-(4-ethoxy-phenyl)-propionic acid hydrochloride (3.18 g, 12.9 mmol, 100%).

reactant | (R)-2-Butoxycarbonylamino-3-(4-ethoxy-phenyl)-propionic acid | 12.93 mmol, 4.0 g | C(CCC)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)OCC | C16H23NO5
reactant | (R)-2-amino-3-(4-ethoxy-phenyl)-propionic acid hydrochloride | 12.9 mmol, 3.18 g | Cl.N[C@@H](C(=O)O)CC1=CC=C(C=C1)OCC
solvent | HCl | 4M | Cl | ClH
solvent | dioxan | 150 mL | O1CCOCC1 | C4H8O2
product | (R)-2-Amino-3-(4-ethoxy-phenyl)-propionic acid | N[C@@H](C(=O)O)CC1=CC=C(C=C1)OCC | C11H15NO3
